Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Hypotension, Fatigue/anemia  
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
This is an ___ year old ___ female who presents with one 
month of progressive fatigue/weakness.  She has had significant 
fatigue for the past 6 months, but this has become worse over 
the last month, and she has been feeling dizzy everyday.  Her 
daughter also notes that she looks paler than usual.  The 
patient has mild DOE.  She has a known history of chronic anemia 
with baseline HCT of ___ (in ___ of unclear etiology.  
Per PCP records, she was evaluated at ___ several years ago 
but no formal records of the results of that eval are known, 
although the patient's daughter reports that "no problem was 
found".  She presented to her PCP today for evaluation, where 
immediate labs were sent and noted to have a Hct of 23.1 and 
plts of 59 from a baseline of 134.  She was hypotensive in the 
office, documented at 78/60, heart rate 93.  Her PCP called her 
to come into the ___ ED due to the hypotension, as well as to 
work up her anemia.  The patient denies fevers, chills, HA, 
cough, chest pain, abdominal pain, N/V/D, vaginal bleeding, 
dysuria, increased frequency, or rash.  She does note some 
constipation, which has been a chronic issue, and her last bowel 
movement was ___ years ago.  She has not had any episodes of 
hematemesis, bloody or tarry stools.
.  
In the ED, initial VS were: T 100.4 HR 95 BP 119/63 RR 16 O2-sat 
100% RA. The patient was given nothing in the ED.  Vitals on 
transfer were T 99 HR 85 BP 106/60 RR19 O2-sat 98% RA.  
.  
On the floor, feels well but continues to feel fatigued.  
.  
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denied cough, shortness of 
breath. Denied chest pain or tightness, palpitations. Denied 
nausea, vomiting, diarrhea, or abdominal pain. No recent change 
in bowel or bladder habits. No dysuria. Denied arthralgias or 
myalgias.
 
Past Medical History:
# chronic anemia of unclear etiology, previously eval at ___, 
family does not recall any abnormalities  
# chronic constipation  
# stress urinary incontinence  
# osteoporosis  
# osteoarthritis  
# heart murmur  
# mild dementia  
# hematuria  
# macular degeneration  
# depression not on medications  
# hyperlipidemia  
# varicose veins in legs

 
Social History:
___
Family History:
Patient's father died of stomach cancer prior to World War II.
 
Physical Exam:
Vitals: T 98.2, BP 138/82, HR 78, RR 16, O2 97% RA  
General: Alert, oriented, no acute distress, pale  
HEENT: Sclera anicteric, MMM, oropharynx clear, pale conjunctiva 
 
Neck: supple, JVP not elevated, no LAD  
Lungs: Bibasilar crackles, L>R
CV: Regular rate and rhythm, normal S1 + S2, ___ SEM loudest at 
base
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly, guaiac 
negative in ED  
Pelvic: Performed in ED, per report, no uterus felt, no vaginal 
bleeding seen  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CN II-XII intact
 
Pertinent Results:
___ 09:50PM   GLUCOSE-114* UREA N-26* CREAT-1.3* SODIUM-136 
POTASSIUM-4.5 CHLORIDE-100 TOTAL CO2-28 ANION GAP-13
___ 11:35AM   GLUCOSE-100
___ 11:35AM   UREA N-20 CREAT-1.2* SODIUM-139 POTASSIUM-4.0 
CHLORIDE-100 TOTAL CO2-28 ANION GAP-15
___ 08:08AM BLOOD Glucose-93 UreaN-18 Creat-1.0 Na-136 
K-4.0 Cl-102 HCO3-27 AnGap-11
___ 08:08AM BLOOD Albumin-3.5 Calcium-8.4 Phos-3.5 Mg-2.0
.
Hematology:
.
___ 09:50PM   WBC-3.1* RBC-2.12* HGB-7.2* HCT-20.8* MCV-98 
MCH-34.0* MCHC-34.7 RDW-16.7*
___ 09:50PM   NEUTS-41* BANDS-1 LYMPHS-44* MONOS-12* EOS-0 
BASOS-0 ATYPS-2* ___ MYELOS-0
___ 09:50PM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-2+ 
MACROCYT-1+ MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-2+
___ 09:50PM   PLT SMR-VERY LOW PLT COUNT-52*
___ 09:50PM   ___ PTT-28.1 ___
___ 09:50PM   RET AUT-0.9*
___ 10:49PM   D-DIMER-321
___ 10:20PM   ___
___ 11:35AM   WBC-4.0 RBC-2.25*# HGB-8.0* HCT-23.1* 
MCV-102*# MCH-35.6*# MCHC-34.8 RDW-16.0*
___ 11:35AM   PLT SMR-VERY LOW PLT COUNT-59*#
___ 08:08AM BLOOD WBC-3.1* RBC-2.62* Hgb-8.7* Hct-24.3* 
MCV-93 MCH-33.1* MCHC-35.7* RDW-17.4* Plt Ct-49*
___ 08:08AM BLOOD Hypochr-1+ Anisocy-OCCASIONAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-OCCASIONAL 
Ovalocy-OCCASIONAL Tear ___
___ 08:08AM BLOOD Plt Ct-49*
___ 08:08AM BLOOD ___ PTT-28.8 ___
.
LFTs -
.
___ 09:50PM   LD(LDH)-158 CK(CPK)-34 TOT BILI-0.6 DIR 
BILI-0.2 INDIR BIL-0.4
___ 11:35AM   ALT(SGPT)-8 AST(SGOT)-15 ALK PHOS-69
___ 11:35AM   TOT PROT-7.1 CALCIUM-8.9 CHOLEST-185
___ 11:35AM   TRIGLYCER-69 HDL CHOL-76 CHOL/HDL-2.4 
LDL(CALC)-95
___ 08:08AM BLOOD ALT-7 AST-13 LD(LDH)-155 AlkPhos-65 
TotBili-2.8*
.
___ 09:50PM   CK-MB-NotDone cTropnT-<0.01
___ 09:50PM   TOT PROT-6.6 IRON-51
___ 09:50PM   calTIBC-226* VIT ___ FOLATE-11.6 
___ FERRITIN-447* TRF-174*
___ 11:35AM   estGFR-Using this
___ 11:35AM   TSH-1.3
.
ON DISCHARGE: ___ 09:10a   
.
139  102  18     
------------< 97  gap 13
3.9  28  1.0  
.
Ca: 8.8 Mg: 2.1 P: 3.2
.
    10.0           
2.8 >--< 67  mcv 96
    29.0
.
Urinalysis-
.
___ 05:40AM URINE Color-Straw Appear-Clear Sp ___
___ 05:40AM URINE Blood-SM Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 05:40AM URINE ___ Bacteri-RARE Yeast-NONE 
Epi-<1
___ 05:40AM URINE Eos-NEGATIVE  
___ 05:40AM URINE Hours-RANDOM UreaN-563 Creat-69 Na-72
.
MICROBIOLOGY:
___: Blood Culture, Routine (Pending): x 2 
___: URINE CULTURE - final - MIXED BACTERIAL FLORA ( >= 3 
COLONY TYPES), CONSISTENT WITH SKIN AND/OR GENITAL 
CONTAMINATION. 
.
IMAGING:
.
CXR (___): 
Lung volumes are low resulting in vascular crowding. Minimally 
increased interstitial markings, predominantly at the lung bases 
may indicate an underlying interstitial abnormality. There is no 
consolidation or pleural effusion. There is no pneumothorax. The 
heart size is top normal. The aorta is tortuous and calcified. 
There is no hilar or mediastinal enlargement. Pulmonary 
vascularity is normal. Degenerative changes and ossification of 
the anterior longitudinal ligament are noted in the spine. 
IMPRESSIONS: No consolidation. No hilar enlargement. 
.
EKG (___): Normal sinus rhythm, left axis deviation, Right 
bundle branch block with ? left anterior fascicular block. No 
obvious ischemic changes.
 
Brief Hospital Course:
This is an ___ year old female with chronic anemia who presents 
with 1 month of fatigue and found to have worsening anemia, 
thrombocytopenia, and ARF.  
.  
# Hypotension:  Pt presented to PCP ___ ___ with BP 78/60, but 
BP has been stable and within normal limits since admission to 
___.  Hypotension was potentially hypovolemic in nature, 
although patient did not require fluids for resolution of low 
BP.  The patient's orthostatics were negative during this 
admission; an outpatient workup for orthostatic hypotension may 
be worth considering, although the patient does not have a 
history of falls and is otherwise asymptomatic.
.
# Anemia - Multiple possible causes, including aplastic anemia, 
myelodysplastic syndrome, anemia of chronic disease, plasma cell 
dyscrasias, blood loss, or hemolytic process.  Symptoms suggest 
a relatively chronic process but HCT dropped from 23->21 in 12 
hours on ___, suggesting a possibly accelerating process. 
Possible slow GI bleed but less likely given guaiac negative and 
constipation.  Hemolysis labs reportedly negative overnight, but 
re-sent because could not find in system.  DIC very unlikely 
given elevated fibrinogen, normal D-dimer, and normal coags.  
Concern for TTP-HUS with anemia, thrombocytopenia, low grade 
fever and ARF but no schistocytes seen on smear and again, no 
evidence of hemolysis (elevated TBili on ___ likely 
post-transfusional).  All cell lines down so possible marrow 
process affecting production, especially with slight lymphocytic 
predominance and atypicals on smear.  Previous Fe studies and 
B12/folate normal.  Previous renal function normal and anemia is 
normocytic, so anemia of chronic disease less likely.  SPEP 
normal in ___, resent to r/o plasma cell dyscrasia.  No 
chemotherapy, radiation exposure, or medications suggestive of 
aplastic anemia.  MDS is ___ strong possibility given her age, 
pancytopenia, low reticulocyte count.
.
Two peripheral IVs (18-gauge) were placed and 2 units PRBCs 
given on ___, with an improvement in Hct to from 
20.8->24.3->29.0 on ___.  Reticulocyte count was found to be 
low at 0.9.  Iron studies did not suggest iron deficiency anemia 
or B12/folate deficiency, although we will continue the 
patient's outpatient iron supplementation regimen.  A peripheral 
smear and SPEP/UPEP were sent and were pending at discharge.  
Hematology-oncology saw the patient, agrees with our 
differential of myelodysplastic syndrome vs. myelofibrosis and 
recommended follow up in clinic for possible consideration of BM 
biopsy which could provide definitive diagnosis, though the 
extent that this would change management in this ___ year old 
woman is unclear.
.  
# Thrombocytopenia: Similar concerns as above.  DIC and TTP were 
thought to be unlikely in the absence of evidence for hemolysis. 
 There is a possible production problem as noted above. Could be 
ITP but that is a diagnosis of exclusion, and less likely given 
the patient's pancytopenia.   
.  
# ARF: Pt had a mild elevation in creatinine to 1.3 (baseline 
1.0) on admission, which resolved with transfusion and 
hydration.  Likely related to anemia and relative hypovolemia. 
BUN/Cr<20, suggestive of mild prerenal process.  Receiving 2 
units of blood which should be a good volume challenge.  
Creatinine improved with transfusion to 1.0 on ___.
.  
# Fever: Low grade temp to 100.4 in triage. No clear localizing 
source. Will hold on abx unless decompensates.  CXR was negative 
for consolidation, exam does show some dry crackles most likely 
due to atalectasis.  Urinalysis was negative in detail, and 
urine and blood cultures remain pending.
.  
# Osteoporosis: Reports not taking her fosamax due to concerns 
about not being able to sit up long enough.  Will hold for now.  

.
 
Medications on Admission:
Ferrous Sulfate 352mg PO daily  
Fosamax 70mg PO qwk  
Trospium 20mg PO BID  
Calc/Vit. D 1000U PO daily
 
Discharge Medications:
1. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
2. Trospium 20 mg Tablet Sig: One (1) Tablet PO twice a day.  
3. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO once a day.  
4. Cholecalciferol (Vitamin D3) 1,000 unit Capsule Sig: One (1) 
Capsule PO once a day. Capsule(s) 
5. Outpatient Lab Work
Please check a CBC on ___ and have the results faxed to Dr. 
___ (FAX ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Anemia
Pancytopenia
Acute renal insufficiency
Fever
Hypotension

Secondary:
Osteoporosis
Stress urinary incontinence

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted for weakness and fatigue and were found to 
have a low red blood cell count (anemia).  You were given a 
blood transfusion and your symptoms improved.  You were found to 
have low platelets (thrombocytopenia) and white blood cell count 
(leukopenia).  You were seen by the hematology-oncology team and 
they felt the low cell lines may be due to a process of abnormal 
blood cell proliferation or other cause of hindrance in the bone 
marrow (myelodysplastic syndrome or myelofibrosis).  

No changes were made to your medication regimen.  Please take 
all of your home medications as prescribed.
 
Followup Instructions:
___